US05591762
4'-[[2-n-Propyl-4-methyl-6-(1-cyclohexyl-4-isopropyl-5-methylimidazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic Acid
Prepared analogously to Example 146 from tert.butyl 4'-[[2-n-propyl-4-methyl-6-(4-isopropyl-5-methyl-oxazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate and N-cyclohexyl-formamide/cyclohexylamine.

reactant | tert.butyl 4'-[[2-n-propyl-4-methyl-6-(4-isopropyl-5-methyl-oxazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2C)C=2OC(=C(N2)C(C)C)C | C36H41N3O3
reactant | N-cyclohexyl-formamide cyclohexylamine | C1(CCCCC1)NC=O.C1(CCCCC1)N
product | 4'-[[2-n-Propyl-4-methyl-6-(1-cyclohexyl-4-isopropyl-5-methylimidazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic Acid | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2C)C=2N(C(=C(N2)C(C)C)C)C2CCCCC2 | C38H44N4O2
